US04062844
To the above mixture is added slowly at -20° C., 32.9 g. (0.10 mole) of 2-(4-carbethoxypiperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline dissolved in 300 ml. of ethyl ether. The reaction mixture is stirred at -20° C. for 2 hours, then allowed to warm to room temperature. The resulting mixture is hydrolyzed by addition of 100 ml. of water, and the ether layer separated. The aqueous layer is extracted with 300 ml. of ether and the combined extracts are dried over anhydrous magnesium sulfate. Evaporation of solvent affords 2-[4-(2-furoyl)piperazin-1-yl]-4-amino-6,7-dimethoxyquinazoline which can be further pruified if desired by silica gel column chromatography.

reactant | 2-(4-carbethoxypiperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline | 0.10 mole | C(=O)(OCC)N1CCN(CC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C17H23N5O4
reactant | ethyl ether | C(C)OCC | C4H10O
product | 2-[4-(2-furoyl)piperazin-1-yl]-4-amino-6,7-dimethoxyquinazoline | O1C(=CC=C1)C(=O)N1CCN(CC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C19H21N5O4
